US07816542B2
Steps 8 and 9: To a mixture of 4-(6-chloro-3-ethyl-7-fluoro-1H-indol-2-yl)-2-hydroxy-benzoic acid methyl ester (50 mg, 0.14 mmol), 4-n-butyl-phenylboronic acid (50 mg, 0.28 mmol), and cesium fluoride (78 mg, 0.52 mmol) in dioxane (3 mL, anhydrous) is added palladium bis(tri-tert-butyl-phosphine) (6 mg, 10 mol %). This mixture is purged with N2 for 3 minutes and then heated in a sealed tube at 120° C. for 4 hours. The mixture is cooled to room temperature, filtered, and the filtrate is concentrated. The resulting residue is dissolved in ethanol/H2O (1 mL/0.1 mL) and transferred to a microwave tube. LiOH (12 mg, 0.54 mmol) is added and the mixture is heated at 120° C. for 6 minutes under microwave irradiation. The crude product mixture is filtered. After concentration of the filtrate, the crude product is purified by preparative RP LC-MS to give 4-[6-(4-butyl-phenyl)-3-ethyl-7-fluoro-1H-indol-2-yl]-2-hydroxy-benzoic acid as a yellow solid: 1H NMR (400 MHz, CD3OD) δ 7.96 (d, 1H, J=8.8 Hz), 7.50 (d, 2H, J=8 Hz), 7.42 (d, 1H, J=8.4 Hz), 7.24 (d, 2H, J=8 Hz), 7.21-7.20 (m, 2H), 7.10 (dd, 1H, J=8, 8 Hz), 2.95 (q, 2H, J=7.6 Hz), 2.66 (t, 2H, J=8 Hz), 1.65 (m, 2H), 1.40 (m, 2H), 1.34 (t, 3H, J=7.6 Hz), 0.97 (t, 3H, J=7.6 Hz); ESMS m/z 432.2 (M+H+).

reactant | 4-(6-chloro-3-ethyl-7-fluoro-1H-indol-2-yl)-2-hydroxy-benzoic acid methyl ester | 0.14 mmol, 50 mg | COC(C1=C(C=C(C=C1)C=1NC2=C(C(=CC=C2C1CC)Cl)F)O)=O | C18H15ClFNO3
reactant | 4-n-butyl-phenylboronic acid | 0.28 mmol, 50 mg | C(CCC)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | cesium fluoride | 0.52 mmol, 78 mg | [F-].[Cs+]
reactant | LiOH | 0.54 mmol, 12 mg | [Li+].[OH-]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | palladium bis(tri-tert-butyl-phosphine) | 6 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.[Pd]
product | 4-[6-(4-butyl-phenyl)-3-ethyl-7-fluoro-1H-indol-2-yl]-2-hydroxy-benzoic acid | C(CCC)C1=CC=C(C=C1)C1=CC=C2C(=C(NC2=C1F)C1=CC(=C(C(=O)O)C=C1)O)CC | C27H26FNO3
